US05378690
t-Butyl 2-(1-naphthylmethyl)-4-pentenoate
A mixture of 100 ml of anhydrous tetrahydrofuran and 10 ml of diisopropylamine was cooled to -78° C. 51 ml (71.4 mmole) of butyllithium in hexane were added to the mixture, which was then stirred for 15 minutes. At the end of this time, a solution of 12.18 g (47.5 mmole) of t-butyl 3-(1-naphthyl)propionate (prepared as described in Preparation 9) dissolved in 20 ml of anhydrous tetrahydrofuran was added to the reaction mixture, and then the mixture was stirred for 15 minutes. 6.9 g (57 mmole) of allyl bromide were added, and the temperature of the mixture was allowed to rise to room temperature, at which temperature it was stirred for 2 hours. The reaction mixture was then mixed with water and extracted with ethyl acetate. The organic extract was washed with a saturated aqueous solution of citric acid, with a saturated aqueous solution of sodium bicarbonate and with a saturated aqueous solution of sodium chloride, in that order, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel (eluent: a 10: 90 by volume mixture of ethyl acetate and hexane), to afford 12.92 g (91.8%) of the title compound as a pa}e yellow oil.

reactant | diisopropylamine | 10 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 71.4 mmole, 51 ml | C(CCC)[Li]
reactant | t-butyl 3-(1-naphthyl)propionate | 47.5 mmole, 12.18 g | C1(=CC=CC2=CC=CC=C12)CCC(=O)OC(C)(C)C | C17H20O2
reactant | allyl bromide | 57 mmole, 6.9 g | C(C=C)Br | C3H5Br
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | t-Butyl 2-(1-naphthylmethyl)-4-pentenoate | 12.92 g, 91.8% | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OC(C)(C)C)CC=C | C20H24O2
